US06638919B2
L-Alanine (cyclopropyl methyl) ester hydrochloride salt
Thionyl chloride (1.2 ml, 0.017 M) was added dropwise to a stirred solution of cyclopropyl methanol (6.8 ml, 8.4 mmol) at 0° C. under nitrogen. The mixture was stirred for 30 minutes, then allowed to warm to room temperature. L-Alanine (pre-dried at 60° C. over P2O5 for 4 hrs: 0.75 g, 8.4 mmol) was added and the resulting suspension was heated at reflux overnight (the reaction mixture became a clear, colourless solution). The solvent was removed under reduced pressure to leave an orange/red oil which was repeatedly triturated and coevaporated with diethyl ether, to remove traces of cyclopropyl methanol. Diethyl ether (200 ml) was added and the mixture was stirred for 30 min. The resulting suspension was filtered to give the product as a cream solid (1.29 g, 7.1 mmol, 85%).

reactant | Thionyl chloride | 0.017 M, 1.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropyl methanol | 8.4 mmol, 6.8 ml | C1(CC1)CO | C4H8O
reactant | L-Alanine | 8.4 mmol, 0.75 g | N[C@@H](C)C(=O)O | C3H7NO2
product | L-Alanine (cyclopropyl methyl) ester hydrochloride salt | 7.1 mmol, 1.29 g, 85% | Cl.C1(CC1)COC([C@@H](N)C)=O | InChI=1S/C7H13NO2.ClH/c1-5(8)7(9)10-4-6-2-3-6;/h5-6H,2-4,8H2,1H3;1H/t5-;/m0./s1
